US07935724B2
To a solution of 6-[(4-methoxy-benzylamino)-methyl]-benzo[b]thiophene-2-carboxylic acid ethyl ester (122 mg, 0.34 mmol) and cyclohexanone (46 μL, 0.44 mmol) in anhydrous dichloroethane (5 mL) were added sodium triacetoxyborohydride (216 mg, 1.02 mmol) and acetic acid (20 μL, 0.35 mmol). After the reaction was complete, 5 mL of saturated NaHCO3 was added. The organic layer was separated, washed with 5 mL of water and then concentrated. After drying under high vacuum, the residue was dissolved in anhydrous MeOH (6 mL) and hydroxylamine hydrochloride (90 mg, 1.30 mmol) was added, followed by the addition of NaOMe solution (4.37 M in MeOH, 0.57 mL, 2.5 mmol). The mixture was allowed to stir at rt till the reaction was complete. The reaction mixture was concentrated and the residue was dissolved in a minimal amount of water. The obtained solution was acidified with 2N HCl to pH≈8. The solid formed was filtered, washed with water, collected and purified by flash column chromatography to give 6-{[cyclohexyl-(4-methoxy-benzyl)-amino]-methyl}-benzo[b]thiophene-2-carboxylic acid hydroxyamide as a brownish solid. 1H NMR (DMSO-d6, 200 MHz) δ 11.35 (brs, 1H), 9.23 (brs, 1H), 7.90 (s, 1H), 7.87-7.74 (m, 2H), 7.40 (d, J=8.2 Hz, 1H), 7.23 (d, J=8.8 Hz, 2H), 6.83 (d, J=8.4 Hz, 2H), 3.69 (s, 3H), 3.67 (s, 2H), 3.51 (s, 2H), 2.46-2.24 (m, 1H), 1.92-0.86 (m, 10H). MS (EI): cal'd 425.2 (MH+), exp 425.1 (MH+).

reactant | 6-[(4-methoxy-benzylamino)-methyl]-benzo[b]thiophene-2-carboxylic acid ethyl ester | 0.34 mmol, 122 mg | C(C)OC(=O)C1=CC2=C(S1)C=C(C=C2)CNCC2=CC=C(C=C2)OC | C20H21NO3S
reactant | cyclohexanone | 0.44 mmol, 46 μL | C1(CCCCC1)=O | C6H10O
reactant | sodium triacetoxyborohydride | 1.02 mmol, 216 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | acetic acid | 0.35 mmol, 20 μL | C(C)(=O)O | C2H4O2
reactant | NaHCO3 | 5 mL | C(=O)(O)[O-].[Na+]
reactant | hydroxylamine hydrochloride | 1.30 mmol, 90 mg | Cl.NO
reactant | NaOMe | 2.5 mmol, 4.37 M, 0.57 mL | C[O-].[Na+]
solvent | dichloroethane | 5 mL | ClC(C)Cl | C2H4Cl2
product | 6-{[cyclohexyl-(4-methoxy-benzyl)-amino]-methyl}-benzo[b]thiophene-2-carboxylic acid hydroxyamide | ONC(=O)C1=CC2=C(S1)C=C(C=C2)CN(CC2=CC=C(C=C2)OC)C2CCCCC2 | C24H28N2O3S
